US06656660B1
15.0 Grams of poly(p-hydroxystyrene/p-methylstyrene) obtained in above (2) and 3.5 g of ethylvinyl ether were dissolved in 150 ml of 1,4-dioxane and a catalytic amount of pyridinium p-toluenesulfonate was added thereto, followed by conducting a reaction at room temperature for 24 hours with stirring. After the reaction, the resultant was poured into 5000 ml of water to precipitate out. The precipitated polymer was filtered, washed with water and dried under reduced pressure to give 11.5 g of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene/p-methylstyrene) as white powders. A ratio of p-1-ethoxyethoxystyrene unit, p-hydroxystyrene unit and p-methylstyrene unit in the obtained polymer was about 35:60:5 by 1HNMR measurement. Mw: about 18000, Mw/Mn: 1.86 by GPC method (polystyrene as standard).

reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | 5000 ml | O | H2O
reactant | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | p-1-ethoxyethoxystyrene p-hydroxystyrene p-methylstyrene | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1.CC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O2.C9H10.C8H8O/c1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-3-9-6-4-8(2)5-7-9;1-2-7-3-5-8(9)6-4-7/h3,5-8H,1,4,9-10H2,2H3;3-7H,1H2,2H3;2-6,9H,1H2
